US03950393
5-Acetyl-2-amino-3-bromo-N,N-dimethyl-benzylamine by method B
9.0 gm of bromine were added dropwise to a solution of 12.8 gm of 5-acetyl-2-amino-N,N-dimethyl-benzylamine hydrochloride in 100 ml of 80% acetic acid. Subsequently, the reaction mixture was made alkaline with 2 N ammonia, extracted twice with chloroform, and the organic extract was evaporated. By recrystallization of the residue from ethanol/water, 5-acetyl-2-amino-3-bromo-N,N-dimethyl-benzylamine, m.p. 92°-95°C, was obtained.

reactant | bromine | 9.0 gm | BrBr | Br2
reactant | 5-acetyl-2-amino-N,N-dimethyl-benzylamine hydrochloride | 12.8 gm | Cl.C(C)(=O)C=1C=CC(=C(CN(C)C)C1)N
reactant | ammonia | 2 N | N | H3N
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 5-Acetyl-2-amino-3-bromo-N,N-dimethyl-benzylamine | C(C)(=O)C=1C=C(C(=C(CN(C)C)C1)N)Br | C11H15BrN2O
